US08614213B2
Step 2: Trans-2-chloro-N-(4-((3-(2-oxoimidazolidin-1-yl)-1H-pyrazol-1-yl)methyl)cyclohexyl)-5-(trifluoromethyl)benzamide
1-(1H-pyrazol-3-yl)imidazolidin-2-one (410 mg, 2.69 mmol) is placed in a microwave vial with acetonitrile (12 mL). NaH (60%, 108 mg, 2.69 mmol) is added and the reaction mixture is stirred at RT for 30 minutes. Trans-(4-(2-chloro-5-(trifluoromethyl)benzamido)cyclohexyl)methyl 4-methylbenzenesulfonate (1.20 g (0.20 mmol) is added and the mixture is heated using microwave radiation at 120° C. for 30 minutes. The mixture is partitioned between DCM and water. The organic phase is washed with water and brine, dried over MgSO4, filtered and the solvent was removed in vacuo. The product is purified by crystallisation (EtOAc with a small amount of MeOH) to afford the title compound.

reactant | 1-(1H-pyrazol-3-yl)imidazolidin-2-one | 2.69 mmol, 410 mg | N1N=C(C=C1)N1C(NCC1)=O | C6H8N4O
reactant | NaH | 2.69 mmol, 108 mg | [H-].[Na+]
reactant | Trans-(4-(2-chloro-5-(trifluoromethyl)benzamido)cyclohexyl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CC[C@H](CC1)NC(C1=C(C=CC(=C1)C(F)(F)F)Cl)=O | C22H23ClF3NO4S
solvent | acetonitrile | 12 mL | C(C)#N | C2H3N
product | Trans-2-chloro-N-(4-((3-(2-oxoimidazolidin-1-yl)-1H-pyrazol-1-yl)methyl)cyclohexyl)-5-(trifluoromethyl)benzamide | ClC1=C(C(=O)N[C@@H]2CC[C@H](CC2)CN2N=C(C=C2)N2C(NCC2)=O)C=C(C=C1)C(F)(F)F | C21H23ClF3N5O2
